US09056874B2
a) (±)-2-(1-(5-(Difluoromethoxy)-7-methyl-1H-indol-4-yl)-1-methoxyethyl)-1H-benzo[d]imidazole-5-carbonitrile
To a solution of a mixture of (±)-tert-butyl 4-(1-(5-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)-1-methoxyethyl)-5-(difluoromethoxy)-7-methyl-1H-indole-1-carboxylate and (±)-tert-butyl 4-(1-(6-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)-1-methoxyethyl)-5-(difluoromethoxy)-7-methyl-1H-indole-1-carboxylate (475 mg, 0.758 mmol) in THF (7.6 mL) at room temperature, ethylenediamine (0.51 mL, 7.58 mmol) was added followed by TBAF (1M in THF, 7.6 mL, 7.6 mmol) and the reaction was stirred at 60° C. After 6 hours the reaction was cooled to room temperature, additional ethylenediamine (0.51 mL, 7.58 mmol) and TBAF (1M in THF, 7.6 mL, 7.6 mmol) were added and the reaction was stirred at 60° C. overnight. The reaction was cooled to room temperature, quenched with NH4Cl and extracted with EtOAc. The organic extract was dried over MgSO4, filtered and concentrated. The resulting residue was purified by flash chromatography (0-100% EtOAc in heptanes) to provide the title compound. 1H NMR (400 MHz, DMSO-d6) δ ppm 12.68-12.85 (m, 1H) 11.19 (br. s., 1H) 8.09 (m) 7.83 (m) 7.69-7.74 (m) 7.47-7.58 (m) 7.31 (t, J=2.78 Hz, 1H) 6.89-6.96 (m) 6.70-6.77 (m) 6.46-6.58 (m) 3.01-3.17 (m, 3H) 2.46 (s, 3H) 2.07 (s, 3H). HRMS calcd. for C21H18F2N4O2 (M+H)+ 397.1471. found 397.1482.

reactant | (±)-tert-butyl 4-(1-(5-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)-1-methoxyethyl)-5-(difluoromethoxy)-7-methyl-1H-indole-1-carboxylate | C(#N)C1=CC2=C(N(C(=N2)C(C)(OC)C2=C3C=CN(C3=C(C=C2OC(F)F)C)C(=O)OC(C)(C)C)COCC[Si](C)(C)C)C=C1 | C32H40F2N4O5Si
reactant | (±)-tert-butyl 4-(1-(6-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)-1-methoxyethyl)-5-(difluoromethoxy)-7-methyl-1H-indole-1-carboxylate | 0.758 mmol, 475 mg | C(#N)C=1C=CC2=C(N(C(=N2)C(C)(OC)C2=C3C=CN(C3=C(C=C2OC(F)F)C)C(=O)OC(C)(C)C)COCC[Si](C)(C)C)C1 | C32H40F2N4O5Si
reactant | ethylenediamine | 7.58 mmol, 0.51 mL | C(CN)N | C2H8N2
reactant | TBAF | 7.6 mmol, 1M, 7.6 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | ethylenediamine | 7.58 mmol, 0.51 mL | C(CN)N | C2H8N2
reactant | TBAF | 7.6 mmol, 1M, 7.6 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 7.6 mL | C1CCOC1 | C4H8O
product | (±)-2-(1-(5-(Difluoromethoxy)-7-methyl-1H-indol-4-yl)-1-methoxyethyl)-1H-benzo[d]imidazole-5-carbonitrile | FC(OC=1C(=C2C=CNC2=C(C1)C)C(C)(OC)C1=NC2=C(N1)C=CC(=C2)C#N)F | C21H18F2N4O2
